US05158946
b) Diphenymethyl 3-(2,5-Dihydro-2-oxofuran-4-yl-methylthio) -7β-phenylacetamidoceph-3-em-4-carboxylate
N,N-Diisopropylethylamine (0.15 ml) was added to a stirred solution of diphenylmethyl-3-mercapto-7β-phenylacetamidoceph-3-em-4-carboxylate (500 mg) and 4-bromomethyl-2(5H)-furanone1 (200 mg) in tetrahydrofuran (10 ml). After stirring at room temperature for 90 mins. the mixture was partitioned between ethyl acetate and aqueous citric acid solution. The organic phase was separated and washed three times with water, then brine, dried over magnesium sulphate and evaporated. The title compound (474 mg) was isolated by column chromatography of the residue using gradient elution (Kieselgel 1:1 ethyl acetate:hexane going to neat ethyl acetate), m.p. 172°-176° C. from ethyl acetate/hexane. (Found: C, 64.24; H, 4.69; N, 4.51; S, 10.48; C33H28N2O6S2 requires; C, 64.69; H, 4.61; N, 4.57; S, 10.47); υmax (CHCl3) 3400, 1785, 1750, 1680 cm-1. δH (CDC13) 3.23 (1H, d, J 17.0Hz), 3.38 (1H, d, J 17.1Hz), 3.41 (H, d, J 15.2Hz), 3.53 (1H, d, J 15.1Hz), 3.66 (2H, s), 4.62 (2H, s), 4.98 (1H, d, J 4.6Hz), 5.76 (1H, dd, J 4.6 and 8.8Hz), 5.89 (1H, s), 6.56 (1H, d, J 8.8Hz) 6.91 (1H, s) 7.2-7.4 (15H, m).

reactant | N,N-Diisopropylethylamine | 0.15 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diphenylmethyl-3-mercapto-7β-phenylacetamidoceph-3-em-4-carboxylate | 500 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)S | C28H24N2O4S2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Diphenymethyl 3-(2,5-Dihydro-2-oxofuran-4-yl-methylthio) -7β-phenylacetamidoceph-3-em-4-carboxylate | 474 mg | O=C1OCC(=C1)CSC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C33H28N2O6S2
